US05753661
A solution of 3-cyclohexylsulfonyl-1-propanol (37 g) and triethylamine (30 ml) in methylene chloride (400 ml) was treated dropwise at -5° C. with methanesulfonyl chloride (15 ml). After stirring for 2 h at room temperature the mixture was washed with water and dried over magnesium sulfate. Removal of solvent in vacuo gave a viscous oil (49 g) of 3-cyclohexylsulfonyl-1-propyl methanesulfonate.

reactant | 3-cyclohexylsulfonyl-1-propanol | 37 g | C1(CCCCC1)S(=O)(=O)CCCO | C9H18O3S
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 3-cyclohexylsulfonyl-1-propyl methanesulfonate | 49 g | CS(=O)(=O)OCCCS(=O)(=O)C1CCCCC1 | C10H20O5S2
